US07138402B2
A mixture of 2-amino-5-isopropyl-3,7-dihydro-pyrrolo[2,3-d]pyrimidin-4-one and acetic anhydride (20 mL) was heated to reflux for 3 h and evaporated. The residue was treated with BnNEt3Cl (8.99 g, 40 mmol), PhNMe2 (4.9 mL) and POCl3 (17 mL, 120 mmol) in CH3CN (100 mL) at 100° C. for 40 min and concentrated. The residue was poured into ice water and neutralized with 2N NaOH, extracted with EtOAc (80 mL×3), and evaporated to give an oil which was digested with methanolic 4N HCl (50 mL) at 50° C. for 2 h. After cooling, and neutralization to pH 7 with 2N NaOH, the solid was collected by filtration and dried to give 4-chloro-5-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine (1.88 g, 45%). HPLC Rt: 5.796 min. 1H-NMR (DMSO-d6): δ 11.170 (s, 1H), 6.82 (s, 1H), 6.42 (s, 2H), 3.24 (7, 1H), 1.25 (s, 3H), 1.23 (s, 3H).

reactant | 2-amino-5-isopropyl-3,7-dihydro-pyrrolo[2,3-d]pyrimidin-4-one | NC=1NC(C2=C(N1)NC=C2C(C)C)=O | C9H12N4O
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | PhNMe2 | 4.9 mL | C1(=CC=CC=C1)N(C)C | C8H11N
reactant | POCl3 | 120 mmol, 17 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 4N, 50 mL | Cl | ClH
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 4-chloro-5-isopropyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 1.88 g, 45% | ClC=1C2=C(N=C(N1)N)NC=C2C(C)C | C9H11ClN4
